US08431575B2
(±)-cis-6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-1-methyl-piperidin-4-ylmethyl)-amide dihydrochloride
(±)-cis-6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-1-methyl-piperidin-4-ylmethyl)-amide (0.35 mmol, 160 mg) was stirred in 4 M HCl/dioxane (1 mL) for 20 min at room temperature. After evaporating the solvent, dichloromethane (0.2 mL) and hexane (1 mL) was added to precipitate (±)-cis-6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-1-methyl-piperidin-4-ylmethyl)-amide dihydrochloride. LCMS: m/z 484 [M+1]. 1H NMR (400 MHz, CD3OD) δ 8.51 (1H, s), 7.50-7.51 (2H, m), 7.13-7.15 (2H, m), 4.44-4.48 (1H, m), 3.43-3.76 (5H, m), 2.97-3.03 (1H, m), 2.89-2.90 (3H, m), 2.80-2.85 (1H, m), 2.08-2.34 (1H, m), 1.99-2.04 (2H, m), 1.81-1.84 (3H, m), 1.30-1.63 (13H, m), 0.83-0.87 (3H, t).

reactant | (±)-cis-6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-1-methyl-piperidin-4-ylmethyl)-amide | 0.35 mmol, 160 mg | F[C@@H]1CN(CC[C@@H]1CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)C | C28H39FN4O2
reactant | HCl dioxane | 4 M, 1 mL | Cl.O1CCOCC1
product | (±)-cis-6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-1-methyl-piperidin-4-ylmethyl)-amide dihydrochloride | Cl.Cl.F[C@@H]1CN(CC[C@@H]1CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)C | InChI=1S/C28H39FN4O2.2ClH/c1-3-4-10-26-24(20-11-13-23(14-12-20)35-22-8-6-5-7-9-22)17-27(32-31-26)28(34)30-18-21-15-16-33(2)19-25(21)29;;/h11-14,17,21-22,25H,3-10,15-16,18-19H2,1-2H3,(H,30,34);2*1H/t21-,25-;;/m1../s1
